US07759337B2
Step A: N-Cyclopropyl-3-iodobenzamide
3-Iodobenzoic acid (4.79 g, 19.3 mmol) was suspended in thionyl chloride (19.3 mL) and stirred for 1 h at 70° C. before it was conc. and azeotropically dried with toluene. The reaction mixture was dissolved in dioxane (19.3 mL) before N-ethyl-N-isopropylpropan-2-amine (13.5 mL, 77.3 mmol) and cyclopropylamine (6.77 mL, 96.6 mmol) were added and stirred for 16 h at ambient temperature. The reaction mixture was diluted with 75 mL of ethyl acetate, added to a separation funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed 2× with 50 mL of 3 N HCl (aqueous), separated, dried over sodium sulfate, and concentrated in vacuo to give the title compound. MS (ES+): 288 (M+H)+.

reactant | 3-Iodobenzoic acid | 19.3 mmol, 4.79 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | N-ethyl-N-isopropylpropan-2-amine | 77.3 mmol, 13.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 96.6 mmol, 6.77 mL | C1(CC1)N | C3H7N
solvent | thionyl chloride | 19.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane | 19.3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropyl-3-iodobenzamide | C1(CC1)NC(C1=CC(=CC=C1)I)=O | C10H10INO
